*Chebyshev Band Pass Filter

*** *** FILTER CIRCUIT *** ***
C1 1 0 #C1#  ; #CSMD_50p80p#
L1 1 0 #L1#  ; #LBOND_350p450p#

L2 1 2 #L2#  ; #LBOND_60n100n#
C2 2 3 #C2#  ; #CSMD_300f340f#

C3 3 0 #C3#  ; #CSMD_50p80p#
L3 3 0 #L3#  ; #LBOND_350p450p#


*** ***      *** ***
VIN IN 0 ac 1
RG  IN 1 1n

*** *** ANALYSIS *** ***
.AC DEC 1000 800e6 1200E6
.NET v(3) VIN rout=50 rin=50
.SAVE s11(VIN) s21(vin)
*.OPTION POST PROBE
.END
